US08629160B2
2-(Benzo[b]thiophen-3-yl)-2-(phenylamino)acetic acid (I18) (295 mg, 1.04 mmol), (R)-quinuclidin-3-ol (159 mg, 1.25 mmol), 1H-benzo[d][1,2,3]triazol-1-ol hydrate (191 mg, 1.25 mmol), and DCC (258 mg, 1.25 mmol) were dissolved in dry THF and stirred at room temperature for 15 hours. The solvent was evaporated, and the crude product was dissolved in EtOAc and washed with NaHCO3, water and brine. The organic phase was dried with Na2SO4, filtered and evaporated under vacuum. The crude product was purified by flash chromatography (DCM/MeOH=9/1) to obtain (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (180 mg, 44% yield).

reactant | 2-(Benzo[b]thiophen-3-yl)-2-(phenylamino)acetic acid | 1.04 mmol, 295 mg | S1C2=C(C(=C1)C(C(=O)O)NC1=CC=CC=C1)C=CC=C2 | C16H13NO2S
reactant | (R)-quinuclidin-3-ol | 1.25 mmol, 159 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 1.25 mmol, 191 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | DCC | 1.25 mmol, 258 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 180 mg, 44% yield | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
